US08008302B2
Intermediate 15: (3R)-3-methyl-1-[5-(trifluoromethyl)pyridin-2-yl]piperazine
A suspension of 2-bromo-5-trifluoromethyl-pyridine (2.37 g; 10.0 mmol; 1.0 eq.), (R)-2-methylpiperazine (2.00 g; 20.0 mmol; 2.0 eq.) and DIEA (1.94 g; 15.0 mmol; 1.5 eq.) in 4 mL of DMA was heated at 140° C. for 14 h. The mixture was cooled to room temperature. After evaporation of the solvent under vacuum, the residue was dissolved in a 1/1 mixture of DCM/Et2O. A 4N solution of HCl was added (10 mL) then the resulting precipitate was collected and washed with Et2O. The solid was then poured to an aq. solution of NaOH (5N, 20 mL) and the resulting mixture was extracted with Et2O (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and evaporated to give the title compound as an orange solid (1680 mg, 69%) used without further purification for the next steps. M+(ESI): 246.3. HPLC (Condition A), Rt: 1.0 min (HPLC purity: 99.9%).

reactant | 2-bromo-5-trifluoromethyl-pyridine | 10.0 mmol, 2.37 g, 1.0 eq. | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | (R)-2-methylpiperazine | 20.0 mmol, 2.00 g, 2.0 eq. | C[C@H]1NCCNC1 | C5H12N2
reactant | DIEA | 15.0 mmol, 1.94 g, 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | (3R)-3-methyl-1-[5-(trifluoromethyl)pyridin-2-yl]piperazine | 1680 mg, 69% | C[C@@H]1CN(CCN1)C1=NC=C(C=C1)C(F)(F)F | C11H14F3N3
